* Z:\home\aniket\LTspice\my_files\Draft7.asc
A1 N005 0 N004 N001 0 0 N006 0 DFLOP
A2 N007 0 N004 0 N001 0 N008 0 DFLOP
A3 N024 0 N008 N006 N003 0 N025 0 DFLOP
A4 N024 0 N010 N008 N003 0 N026 0 DFLOP
V1 N005 0 0
V§start N002 0 PULSE(0 1 100n 0.1n 0.1n 1025n 1125n)
vin N024 0 PWL(0 0 2250n 0 5600n 1)
V§clk N004 0 PULSE(0 1 62.5n 0.1n 0.1n 62.5n 125n)
A5 N002 0 0 0 0 N003 0 0 BUF
A6 N003 0 N004 0 0 0 N001 0 DFLOP
XX1 N006 N007 rc_delay
A7 N009 0 N004 0 N001 0 N010 0 DFLOP
XX2 N008 N009 rc_delay
A8 N024 0 N012 N010 N003 0 N027 0 DFLOP
A9 N011 0 N004 0 N001 0 N012 0 DFLOP
A10 N024 0 N014 N012 N003 0 N028 0 DFLOP
A11 N013 0 N004 0 N001 0 N014 0 DFLOP
A12 N024 0 N016 N014 N003 0 N029 0 DFLOP
A13 N015 0 N004 0 N001 0 N016 0 DFLOP
A14 N024 0 N018 N016 N003 0 N030 0 DFLOP
A15 N017 0 N004 0 N001 0 N018 0 DFLOP
A16 N024 0 N020 N018 N003 0 N031 0 DFLOP
A17 N019 0 N004 0 N001 0 N020 0 DFLOP
A18 N024 0 N022 N020 N003 0 N032 0 DFLOP
A19 N021 0 N004 0 N001 0 N022 0 DFLOP
XX3 N010 N011 rc_delay
XX4 N012 N013 rc_delay
XX5 N014 N015 rc_delay
XX6 N016 N017 rc_delay
XX7 N018 N019 rc_delay
XX8 N020 N021 rc_delay
XX9 N022 N023 rc_delay
A20 N025 0 N051 0 0 0 N052 0 DFLOP
A21 N026 0 N051 0 0 0 N053 0 DFLOP
A22 N027 0 N051 0 0 0 N054 0 DFLOP
A23 N028 0 N051 0 0 0 N055 0 DFLOP
A24 N029 0 N051 0 0 0 N056 0 DFLOP
A25 N030 0 N051 0 0 0 N057 0 DFLOP
A26 N031 0 N051 0 0 0 N058 0 DFLOP
A27 N032 0 N051 0 0 0 N059 0 DFLOP
E9 N060 0 N052 0 1280m
E10 N061 N060 N053 0 640m
E11 N062 N061 N054 0 320m
E12 N063 N062 N055 0 160m
E13 N064 N063 N056 0 80m
E14 N065 N064 N057 0 40m
E15 N066 N065 N058 0 20m
E16 N067 N066 N059 0 10m
R1 N051 N022 1
C1 N051 0 10p

* block symbol definitions
.subckt rc_delay in out
R1 out in 1
C1 out 0 10p
.ends rc_delay

.tran 10u
.backanno
.end
